US04537903
Cuprous cyanide (1.03 g; 11.5 mM) and 2-(o-bromocinnamyl)-4-methoxyphenol (1.03 g; 3.23 mM) were combined in 12 ml of anhydrous N-methylpyrrolidinone. Nitrogen was bubbled through the resulting suspension for five minutes and it was then heated to 175° under positive nitrogen pressure for 2 hours. The reaction was poured into 50 ml of conc. NH4OH and 50 ml of water. The emulsion was extracted three times with ether and the ether extracts were washed once with water. Drying over magnesium sulfate was followed by solvent removal leaving a brown oil. This crude product was purified by flash chromatography with 35% ethyl acetate in hexane on a 30 mm×6" column of silica gel. Recrystallization from ethyl acetate/hexane gave 2-(o-cyanocinnamyl)-4-methoxyphenol as a tan solid (335 mg, 39% yield) m.p. 72-74° .

reactant | 2-(o-bromocinnamyl)-4-methoxyphenol | 3.23 mM, 1.03 g | BrC1=C(C=CCC2=C(C=CC(=C2)OC)O)C=CC=C1 | C16H15BrO2
reactant | N-methylpyrrolidinone | 12 ml | CN1C(CCC1)=O | C5H9NO
product | 2-(o-cyanocinnamyl)-4-methoxyphenol | 335 mg, 39% yield | C(#N)C1=C(C=CCC2=C(C=CC(=C2)OC)O)C=CC=C1 | C17H15NO2
